US06194409B1
85a. 7-Methoxy-isoquinoline
Aminoacetaldehyde dimethyl acetal (81.9 mL) was added to a solution of 60.8 mL of 3-methoxy-benzaldehyde in 600 mL of toluene. The mixture was refluxed for 5 h using a Dean-Stark trap and subsequently cooled to 5° C. In a nitrogene atmosphere trifluoroacetic acid anhydride (209 mL) and borontrifluoride etherate (185 mL) were added in succession at such a rate, that the internal temperature was kept below 10° C. After stirring for 3 days at room temperature the the reaction mixture was poured on ice, 250 mL 2 N hydrochloric acid added and the organic layer extracted with 1 N hydrochloric acid. The pH value of the combined aqueous extracts was adjusted to pH 9 by adding concentrated aqueous ammonia. Extraction with ethyl acetate, followed by drying and removal of the solvent in vacuo gave 66.9 g (84%) of the title compound as a light brownish oil. EI-MS: 159 (M+).

reactant | Aminoacetaldehyde dimethyl acetal | 81.9 mL | COC(CN)OC | C4H11NO2
reactant | 3-methoxy-benzaldehyde | 60.8 mL | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | trifluoroacetic acid anhydride | 209 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | borontrifluoride etherate | 185 mL | B(F)(F)F.CCOCC
reactant | hydrochloric acid | 2 N, 250 mL | Cl | ClH
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Methoxy-isoquinoline | 66.9 g, 84% | COC1=CC=C2C=CN=CC2=C1 | C10H9NO
